US03963717
A mixture of 3.0 g. of 4-nitrobenzofuran, 0.5 g of 5% Rhodium on carbon and 25 ml. of ethanol is hydrogenated in a Parr apparatus at a hydrogen pressure of 50 p.s.i. and temperature of 35°C. until the uptake of hydrogen ceases. The catalyst is removed by filtration and the filtrate evaporated in vacuo to obtain an oil of 2,3-dihydro-4-benzofuranamine.

reactant | 4-nitrobenzofuran | [N+](=O)([O-])C1=CC=CC2=C1C=CO2 | C8H5NO3
reactant | hydrogen | [H][H] | H2
catalyst | Rhodium on carbon | 0.5 g | [Rh] | Rh
solvent | ethanol | C(C)O | C2H6O
product | 2,3-dihydro-4-benzofuranamine | O1CCC=2C1=CC=CC2N | C8H9NO
